US08334295B2
4-Chloro-3-(5-isopropyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzonitrile:
To a solution of 4-chloro-5-isopropyl-2,6-dimethoxy-pyrimidine (0.442 g, 2.04 mmol) and 4-chloro-3-cyanomethyl-5-methyl-benzonitrile (0.3707 g, 1.94 mmol) in DMF at 0° C. was added NaH portionwise over 15 minutes to give an orange-red reaction mixture. After stirring for 24 hr, O2 was bubbled into the reaction mixture for 36 hr. The reaction mixture was quenched with saturated ammonium chloride solution and methanol, and diluted with ethyl acetate. The organic layer was washed with saturated ammonium chloride solution, H2O, saturated ammonium chloride solution and dried (MgSO4), then concentrated and purified by flash column chromatography (silica gel, 5 to 50% ethyl acetate/hexane) to give title compound (0.0767 g, 11%). 1H NMR (300 MHz, CDCl3): 7.67 (s, 1H), 7.59 (s, 1H), 4.00 (s, 3H), 3.75 (s, 3H), 3.3-3.2 (m, 1H), 2.37 (s, 3H), 1.25 (s, 3H), 1.23 (s, 3H); 13C NMR (75 MHz, CDCl3): 192.8, 171.1, 162.2, 160.2, 139.1, 138.9, 137.3, 135.9, 132.3, 119.9, 117.4, 110.8, 54.7, 54.2, 26.5, 20.2, 20.2; Mass Spectrum: 360.2, 362.1 (M+H).

reactant | 4-chloro-5-isopropyl-2,6-dimethoxy-pyrimidine | 2.04 mmol, 0.442 g | ClC1=NC(=NC(=C1C(C)C)OC)OC | C9H13ClN2O2
reactant | 4-chloro-3-cyanomethyl-5-methyl-benzonitrile | 1.94 mmol, 0.3707 g | ClC1=C(C=C(C#N)C=C1C)CC#N | C10H7ClN2
reactant | NaH | [H-].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
product | 4-Chloro-3-(5-isopropyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzonitrile | 0.0767 g, 11% | ClC1=C(C=C(C#N)C=C1C)C(=O)C1=NC(=NC(=C1C(C)C)OC)OC | C18H18ClN3O3
